US06472228B2
A solution of 3 g of 1-methyl-3-phenylpropylamine in 5 ml of acetronile was stirred at room temperature. 4 mL of trifluoroacetic anhydride and 1.3 mL of pyridine were added to the solution at room temperature. The resulting reaction mixture was stirred at room temperature overnight, and the mixture was then placed in ice water. The crude product was extracted with ethyl acetate, and the combined organic layers were dried over Na2SO4. Removal of the organic solvent yielded 1-methyl-3-phenylpropylamine-N-trifluroacetamide.

reactant | 1-methyl-3-phenylpropylamine | 3 g | CC(CCC1=CC=CC=C1)N | C10H15N
reactant | trifluoroacetic anhydride | 4 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | pyridine | 1.3 mL | N1=CC=CC=C1 | C5H5N
product | 1-methyl-3-phenylpropylamine N-trifluroacetamide | CC(CCC1=CC=CC=C1)N.C(=O)(C(F)(F)F)N | InChI=1S/C10H15N.C2H2F3NO/c1-9(11)7-8-10-5-3-2-4-6-10;3-2(4,5)1(6)7/h2-6,9H,7-8,11H2,1H3;(H2,6,7)
